US07652061B2
To a stirred solution of acetic acid 3-hydroxyphenyl ester (5.0 g, 32.86 mmol) and potassium carbonate (6.8 g, 49.3 mmol) in DMF (40 mL) is added 4-chloromethyl-5-methyl-2-phenyl-oxazole (6.8 g, 32.86 mmol) at RT. The reaction mixture is stirred for 3 h at RT followed by 24 h at 70° C. The reaction mixture is cooled to RT, diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated at reduced pressure. The crude product is purified on a Biotage 40M column using 20% ethyl acetate in hexane to yield acetic acid-3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl ester as a clear oil.

reactant | acetic acid 3-hydroxyphenyl ester | 32.86 mmol, 5.0 g | OC=1C=C(C=CC1)OC(C)=O | C8H8O3
reactant | potassium carbonate | 49.3 mmol, 6.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 32.86 mmol, 6.8 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | acetic acid-3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)OC(C)=O | C19H17NO4
